US04401816
To a stirred suspension of 2-amino-4,6-dimethyl-1,3,5-triazine in 10 parts by volume of nitroethane at -10° to 0° is added dropwise an equivalent amount of chlorosulfonyl isocyanate. The mixture is stirred for one hour at -10° allowing for completion of the reaction to form [(4,6-dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]sulfamoyl chloride. The additional reagent such as pyrrole is then added and the preparation of the stable herbicidal compound is continued as described in Example 2 or for Equations 3 and 3A.

reactant | 2-amino-4,6-dimethyl-1,3,5-triazine | NC1=NC(=NC(=N1)C)C | C5H8N4
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | [(4,6-dimethyl-1,3,5-triazin-2-yl)aminocarbonyl]sulfamoyl chloride | CC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)Cl | C6H8ClN5O3S
